US06831106B1
f) Dimethyl 4-(2′-methyl-4′-propionylbiphenyl-3-ylmethoxy)phthalate
6.8 g (14 mmol) of dimethyl 4-[4′-(2-ethyl-[1,3]dioxolan-2-yl)-2′-methylbiphenyl-3-ylmethoxy]-phthalate are dissolved in 200 mL of methanol and 50 mL of water. 0.5 mL of sulphuric acid is added and the reaction medium is stirred at room temperature for 10 hours. After the usual treatment, the desired product is obtained, without purification, in the form of a colourless oil (m=6.05 g; Y=97%).

reactant | dimethyl 4-[4′-(2-ethyl-[1,3]dioxolan-2-yl)-2′-methylbiphenyl-3-ylmethoxy]-phthalate | 14 mmol, 6.8 g | C(C)C1(OCCO1)C1=CC(=C(C=C1)C1=CC(=CC=C1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)C | C29H30O7
reactant | sulphuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | Dimethyl 4-(2′-methyl-4′-propionylbiphenyl-3-ylmethoxy)phthalate | CC1=C(C=CC(=C1)C(CC)=O)C1=CC(=CC=C1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C27H26O6
